US09126931B2
8-Isopropoxy-6,6-dimethyl-3-(2-phenyl-ethanesulfonyl)-5,6-dihydro-benzo[b]carbazol-11-one
8-Hydroxy-6,6-dimethyl-3-(2-phenyl-ethanesulfonyl)-5,6-dihydro-benzo[b]carbazol-11-one (30 mg, 0.0673 mmol), [(4R,5R)-5-(tert-butyl-dimethyl-silanyloxymethyl)-2,2-dimethyl-[1,3]dioxolan-4-yl]methanol (22.3 mg, 0.0808 mmol), and PPh3 (23 mg, 0.0875 mmol) were dissolved in THF (0.5 ml), added with DIAD (0.0169 ml, 0.0808 mmol), and the mixture was stirred at 50° C. overnight. After cooling, the reaction solution was filtered and concentrated under reduced pressure. The resulting residues were purified by silica gel column (ethyl acetate/hexane). The resulting residues were dissolved in THF (0.4 ml) and water (0.13 ml), added with camphor sulfonic acid (28.1 mg, 0.121 mmol), and then subjected to microwave irradiation at 80° C. for 15 min under nitrogen atmosphere. Ethyl acetate was added to the resultant. The organic layer was washed with saturated aqueous solution of sodium hydrocarbonate and saturated brine, and then concentrated under reduced pressure. The resulting residues were purified by thin layer chromatography (MeOH/DCM) to obtain Compound GT20-2 (10.5 mg) and Compound GT20-3 (2.4 mg).

reactant | 8-Hydroxy-6,6-dimethyl-3-(2-phenyl-ethanesulfonyl)-5,6-dihydro-benzo[b]carbazol-11-one | 0.0673 mmol, 30 mg | OC=1C=CC2=C(C(C=3NC4=CC(=CC=C4C3C2=O)S(=O)(=O)CCC2=CC=CC=C2)(C)C)C1 | C26H23NO4S
reactant | [(4R,5R)-5-(tert-butyl-dimethyl-silanyloxymethyl)-2,2-dimethyl-[1,3]dioxolan-4-yl]methanol | 0.0808 mmol, 22.3 mg | C(C)(C)(C)[SiH2]OC([C@H]1[C@H](OC(O1)(C)C)CO)(C)C | C13H28O4Si
reactant | PPh3 | 0.0875 mmol, 23 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | DIAD | 0.0808 mmol, 0.0169 ml | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
reactant | camphor sulfonic acid | 0.121 mmol, 28.1 mg | C12(C(=O)CC(CC1)C2(C)C)CS(=O)(=O)O | C10H16O4S
solvent | THF | 0.5 ml | C1CCOC1 | C4H8O
solvent | water | 0.13 ml | O | H2O
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 8-Isopropoxy-6,6-dimethyl-3-(2-phenyl-ethanesulfonyl)-5,6-dihydro-benzo[b]carbazol-11-one | C(C)(C)OC=1C=CC2=C(C(C=3NC4=CC(=CC=C4C3C2=O)S(=O)(=O)CCC2=CC=CC=C2)(C)C)C1 | C29H29NO4S
